US07402698B2
A solution of diisopropylamine (7.87 mL, 56.2 mmol) in dry tetrahydrofuran (50 mL) under nitrogen was cooled to −78° C. and treated dropwise with a solution of n-butyllithium (2.5 M in hexanes, 22 mL, 55.0 mmol). The resulting solution was warmed to 0° C. and stirred for 15 min. The solution was re-cooled to −78° C. and treated, via cannula, with a solution of 3-chlorophenylacetic acid (4.0 g, 23.4 mmol) in tetrahydrofuran (20 mL). The reaction was then allowed to warm to 25° C. where it was stirred for 45 minutes and was then re-cooled to −78° C. A solution of cyclohexanone (3.65 mL, 35.3 mL) in tetrahydrofuran (10 mL) was then added via cannula, and the resulting mixture was stirred at −78° C. for 1.5 h. The reaction was then quenched by the addition of a saturated aqueous solution of ammonium chloride, and the tetrahydrofuran was removed in vacuo. The resulting residue was dissolved in a 2N aqueous solution of sodium hydroxide (30 mL) and washed with ethyl acetate (1×30 mL). The aqueous layer was then acidified to pH=1 with the addition of a 2 N aqueous solution of hydrochloric acid. The product was extracted with ethyl acetate (3×30 mL), and the combined organic extracts were dried over magnesium sulfate and concentrated in vacuo to yield 6.05 g (96%) of pure (3-chlorophenyl)(1-hydroxycyclohexyl)acetic acid as a white solid. HRMS: calcd for C14H17ClO3, 268.0866; found (ESI_FT), 291.0748.

reactant | diisopropylamine | 56.2 mmol, 7.87 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 55.0 mmol, 2.5 M, 22 mL | C(CCC)[Li]
reactant | 3-chlorophenylacetic acid | 23.4 mmol, 4.0 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | cyclohexanone | 3.65 mL | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (3-chlorophenyl)(1-hydroxycyclohexyl)acetic acid | 6.05 g, 96% | ClC=1C=C(C=CC1)C(C(=O)O)C1(CCCCC1)O | C14H17ClO3
